US04855286
Etoc-Phe-His-1(S)-Cyclohexylmethyl-2(R,S)-hydroxy-3-(4,4-dimethyloxazolin-2-yl)propylamide
300 mg of Etoc-Phe-His(DNP)-1(S)-cyclohexylmethyl-2(R,S)-hydroxy-3-(4,4-dimethyloxazolin-2yl)propylamide are reacted with thiophenol to give the title compound in analogy to reference example 1(a).

reactant | Etoc Phe-His(DNP) 1(S)-cyclohexylmethyl-2(R,S)-hydroxy-3-(4,4-dimethyloxazolin-2yl)propylamide | 300 mg | CC1=C(C(=O)CC1OC(=O)C2C(C2(C)C)C=C(C)C)CC#C.N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CN(C=N1)C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)C(=O)O.C1(CCCCC1)C[C@@H](C(CC=1OCC(N1)(C)C)O)[NH-]
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | Etoc Phe-His 1(S)-Cyclohexylmethyl-2(R,S)-hydroxy-3-(4,4-dimethyloxazolin-2-yl)propylamide | CC1=C(C(=O)CC1OC(=O)C2C(C2(C)C)C=C(C)C)CC#C.N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O.C1(CCCCC1)C[C@@H](C(CC=1OCC(N1)(C)C)O)[NH-] | InChI=1S/C19H24O3.C15H18N4O3.C15H27N2O2/c1-7-8-13-12(4)16(10-15(13)20)22-18(21)17-14(9-11(2)3)19(17,5)6;16-12(6-10-4-2-1-3-5-10)14(20)19-13(15(21)22)7-11-8-17-9-18-11;1-15(2)10-19-14(17-15)9-13(18)12(16)8-11-6-4-3-5-7-11/h1,9,14,16-17H,8,10H2,2-6H3;1-5,8-9,12-13H,6-7,16H2,(H,17,18)(H,19,20)(H,21,22);11-13,16,18H,3-10H2,1-2H3/q;;-1/t;12-,13-;12-,13?/m.00/s1
